US07538123B2
(6) 5-(2,3-Dihydroxypropyl)-6-methoxy-2,2-dimethyl-3,4-dihydronaphthalen-1(2H)-one
4.47 g of AD-mix-β was added to a mixture consisting of 1.09 g of 5-allyl-6-methoxy-2,2-dimethyl-3,4-dihydronaphthalen-1(2H)-one, 17 ml of tert-butanol, and 17 ml of water. The obtained mixture was stirred at room temperature overnight. Thereafter, 5.37 g of sodium sulfite was added to the reaction solution, and the obtained mixture was stirred for 35 minutes, followed by extraction with ethyl acetate. The obtained organic layer was washed with a saturated sodium chloride solution and then dried over anhydrous sodium sulfate. After removing the drying agent by filtration, the reaction solution was concentrated under a reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/methanol), so as to obtain 1.25 g of the subject compound.

reactant | AD-mix-β | 4.47 g | CC[C@H]1CN2CC[C@H]1C[C@@H]2[C@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | 5-allyl-6-methoxy-2,2-dimethyl-3,4-dihydronaphthalen-1(2H)-one | 1.09 g | C(C=C)C1=C2CCC(C(C2=CC=C1OC)=O)(C)C | C16H20O2
reactant | tert-butanol | 17 ml | C(C)(C)(C)O | C4H10O
reactant | sodium sulfite | 5.37 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 17 ml | O | H2O
product | 5-(2,3-Dihydroxypropyl)-6-methoxy-2,2-dimethyl-3,4-dihydronaphthalen-1(2H)-one | 1.25 g | OC(CC1=C2CCC(C(C2=CC=C1OC)=O)(C)C)CO | C16H22O4
